US06713508B2
Step C: Ethyl 7-(3-benzyloxypropoxy)-2-ethylchromane-2-carboxylate
To a 85 ml anhydrous THF solution of ethyl 7-(3-benzyloxypropoxy)-chromane-2-carboxylate (5.0 g, 13.5 mmol) and hexamethylphosphoramide (3.1 ml, 17.8 mmol) was added sodium bis(trimethylsilyl) amide 1.0M/THF solution (16.2 ml, 16.2 mmol) was added upon cooling in a dry ice-acetone bath. After stirring for 30 min at that temperature, to it was added iodoethane (3.3 ml, 41.3 mmol). The cooling bath was removed allowing the reaction mixture to warm to rt overnight. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and sat. NH4Claq. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on silica gel eluting with 10% methyl-tert-butyl ether/hexanes to give the title compound as a clear oil 3.76 g (70%).

reactant | ethyl 7-(3-benzyloxypropoxy)-chromane-2-carboxylate | 13.5 mmol, 5.0 g | C(C1=CC=CC=C1)OCCCOC1=CC=C2CCC(OC2=C1)C(=O)OCC | C22H26O5
reactant | hexamethylphosphoramide | 17.8 mmol, 3.1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | sodium bis(trimethylsilyl) amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodoethane | 41.3 mmol, 3.3 ml | ICC | C2H5I
solvent | THF | 85 ml | C1CCOC1 | C4H8O
solvent | THF | 16.2 mmol, 16.2 ml | C1CCOC1 | C4H8O
product | Ethyl 7-(3-benzyloxypropoxy)-2-ethylchromane-2-carboxylate | 3.76 g, 70% | C(C1=CC=CC=C1)OCCCOC1=CC=C2CCC(OC2=C1)(C(=O)OCC)CC | C24H30O5
